US05330986
Indole-7-carboxylic acid (3.20 g, 0.02 mole) was dissolved in 30 ml of dimethylformamide (DMF) and chilled with ice-water. N,N'-Carbonyldiimidazole (3.30 g, 0.02 mole) was then added and the reaction mixture was allowed to stir for 1 hour. At the end of this time N-phenylpiperazine (4.0 g, 0.025 mole) was added, the cold bath was removed., and the reaction mixture was allowed to come to room temperatureover 3 hours. The product was filtered off and recrystallized form toluene to give 3.30 g (54%) of 1-(1H-indol-7-ylcarbonyl)-4-phenylpiperazine, m.p.217°-219° C.

reactant | Indole-7-carboxylic acid | 0.02 mole, 3.20 g | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | N-phenylpiperazine | 0.025 mole, 4.0 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(1H-indol-7-ylcarbonyl)-4-phenylpiperazine | 3.30 g, 54% | N1C=CC2=CC=CC(=C12)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C19H19N3O
